US20010047031A1
(RS)-4-[1-(4-Phenyl-butyl)-piperidin-3-yl-sulfanyl]-phenol
The title compound, MS: m/e=342.3 (M+H+) was prepared from (RS)-4-(piperidin-3-yl-sulfanyl)-phenol hydrobromide and 4-phenyl-butyraldehyde.

reactant | (RS)-4-(piperidin-3-yl-sulfanyl)-phenol hydrobromide | Br.N1CC(CCC1)SC1=CC=C(C=C1)O
reactant | 4-phenyl-butyraldehyde | C1(=CC=CC=C1)CCCC=O | C10H12O
product | (RS)-4-[1-(4-Phenyl-butyl)-piperidin-3-yl-sulfanyl]-phenol | C1(=CC=CC=C1)CCCCN1CC(CCC1)SC1=CC=C(C=C1)O | C21H27NOS
